US07427632B2
3-Chloro-N-[1-(2-chlorophenyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide
Using alkylation method A, 3-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (200 mg, 0.41 mmol) and acetone (2.5 mL, 54 mmol) afforded, after purification (SiO2: 10:10:1 hexane:EtOAc:isopropylamine), 132 mg (66%) of the title compound.

reactant | 3-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 0.41 mmol, 200 mg | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCNCC1)C1=C(C=CC=C1)Cl | C23H25Cl2N3O2
reactant | acetone | 54 mmol, 2.5 mL | CC(=O)C | C3H6O
product | 3-Chloro-N-[1-(2-chlorophenyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCN(CC1)C(C)C)C1=C(C=CC=C1)Cl | C26H31Cl2N3O2
